US05750545
(1) 4-Chlorobenzoic acid 2-amidinohydrazide
The synthesis was carried out according to the method of Example 1-(1). 4-Chlorobenzoic acid hydrazide (34.8 g), methylisothiourea sulfate (115.4 g), sodium hydroxide (17.1 g), water (440 ml) and methanol (700 ml) were used as reagents. The mixture was stirred for 4 days at 60° C. to give 45.4 g of a pale-brown solid which was a mixture of a hydrazide compound and the objective compound.

reactant | 4-Chlorobenzoic acid hydrazide | 34.8 g | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | methylisothiourea sulfate | 115.4 g | S(=O)(=O)(O)O.CNC(S)=N
reactant | sodium hydroxide | 17.1 g | [OH-].[Na+]
reactant | water | 440 ml | O | H2O
solvent | methanol | 700 ml | CO | CH4O
product | 4-Chlorobenzoic acid 2-amidinohydrazide | 45.4 g | C(N)(=N)NNC(C1=CC=C(C=C1)Cl)=O | C8H9ClN4O
